US08835434B2
1-Amino-2-methyl-propan-2-ol (0.408 g, 4.58 mmol) was added to a solution of methyl 2-(4-chlorophenyl)acrylate (0.300 g, 1.52 mmol) in tetrahydrofuran (3.84 mL). The reaction was allowed to stir at room temperature overnight and produced crude methyl 2-(4-chlorophenyl)-3-(2-hydroxy-2-methylpropylamino)propanoate (436 mg, 100%). LCMS: M+1 286.5.

reactant | 1-Amino-2-methyl-propan-2-ol | 4.58 mmol, 0.408 g | NCC(C)(O)C | C4H11NO
reactant | methyl 2-(4-chlorophenyl)acrylate | 1.52 mmol, 0.300 g | ClC1=CC=C(C=C1)C(C(=O)OC)=C | C10H9ClO2
solvent | tetrahydrofuran | 3.84 mL | O1CCCC1 | C4H8O
product | methyl 2-(4-chlorophenyl)-3-(2-hydroxy-2-methylpropylamino)propanoate | 436 mg, 100% | ClC1=CC=C(C=C1)C(C(=O)OC)CNCC(C)(C)O | C14H20ClNO3
